US06673786B1
D5. Methyl 2-(4-Hydroxyiminomethyl-phenoxy)acetate
24.4 g of methyl 2-(4-formylphenoxy)acetate are dissolved in 300 ml methanol and then 9.6 g hydroxylamine hydrochloride and 11.33 g sodium acetate are added. The mixture is stirred overnight, then diluted with 1.2 l water and cooled. The precipitate is filtered off by suction, washed with cold water and dried under reduced pressure. This gives 18.43 g of the title compound. The mass spectrum shows the molecular peak MH+ at 210 Da.

reactant | methyl 2-(4-formylphenoxy)acetate | 24.4 g | C(=O)C1=CC=C(OCC(=O)OC)C=C1 | C10H10O4
reactant | hydroxylamine hydrochloride | 9.6 g | Cl.NO
reactant | sodium acetate | 11.33 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | water | 1.2 l | O | H2O
product | Methyl 2-(4-Hydroxyiminomethyl-phenoxy)acetate | ON=CC1=CC=C(OCC(=O)OC)C=C1 | C10H11NO4
